US06596772B1
3,5-Bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzamide (30).
To a solution of diethyl 3,5-dihydroxybenzamide (100 mg, 0.6553 mmol) in THF was added sodium hydride (60 mg of 60% dispersion in mineral oil) followed by 2-nitro-4-(trifluoromethylsulfonyl) chlorobenzene (378 mg, 1.306 mmol). The mixture was stirred at room temperature for overnight. The reaction was extracted with ethyl acetate, the organic layer was washed with water and brine, dried, concentrated and purified to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ 11.32 (br s, 1H, NH), 10.58 (br s, 1H, NH), 8.78 (d, J=2.2 Hz, 1H), 8.57 (br s, 1H), 8.47 (br d, 1H), 8.33 (dd, J=2.2 & 8.8 Hz, 1H), 8.25 (d, J=8.8 Hz, 1H), 7.40 (d, J=9.3 Hz, 1H), 7.35 (m, 2H), 7.01 (br s, 1H).

reactant | diethyl 3,5-dihydroxybenzamide | 0.6553 mmol, 100 mg | C(C)C1=C(C=C(C(=C1C(=O)N)CC)O)O | C11H15NO3
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl) chlorobenzene | 1.306 mmol, 378 mg | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
solvent | THF | C1CCOC1 | C4H8O
product | 3,5-Bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzamide | [N+](=O)([O-])C1=C(OC=2C=C(C(=O)N)C=C(C2)OC2=C(C=C(C=C2)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=CC(=C1)S(=O)(=O)C(F)(F)F | C21H11F6N3O11S2
